US05104888
6-Acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)-2H-chromene (Step F4)
A mixture of 2.4 g of 4,6-diacetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman (prepared as described in Preparation 56), 0.1 g of p-toluenesulfonic acid monohydrate and 50 ml of benzene was heated under reflux for 1 hour. The reaction solution was cooled, washed with a saturated aqueous solution of sodium bicarbonate, and then with water, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, to give the title compound as a yellow oil.

reactant | 4,6-diacetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman | 2.4 g | C(C)(=O)OC1CC(OC2=CC(=C(C=C12)OC(C)=O)C(C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C | C25H29NO8
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 6-Acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)-2H-chromene | C(C)(=O)OC=1C=C2C=CC(OC2=CC1C(C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C | C23H25NO6
